US06410592B1
Step B: 4-(3-Fluorophenyl)butanoic acid
Methyl-4-(3-fluorophenyl)-4-oxobutanoate (25.27 g), hydrazine hydrate (24.29 cm3) and potassium hydroxide pellets (20.50 g) were dissolved in ethylene glycol (150 cm3) and the mixture was heated at reflux for 1.25 h. The excess hydrazine hydrate was distilled off until the temperature at the still-head reached 160° C. The reaction mixture was then cooled, diluted with water (400 cm3) and the resultant aqueous mass was washed with diethyl ether (2×150 cm3) and then acidified with hydrochloric acid (5 M, 150 cm3). The acidic mixture was then extracted with diethyl ether (2×150 cm3) and the combined extracts were dried (Na2SO4) and the solvent was removed under reduced pressure to provide the title compound (15.51 g) as a dark oil.

reactant | Methyl-4-(3-fluorophenyl)-4-oxobutanoate | 25.27 g | COC(CCC(=O)C1=CC(=CC=C1)F)=O | C11H11FO3
reactant | hydrazine hydrate | 24.29 cm3 | O.NN
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethylene glycol | 150 cm3 | C(CO)O | C2H6O2
product | 4-(3-Fluorophenyl)butanoic acid | 15.51 g | FC=1C=C(C=CC1)CCCC(=O)O | C10H11FO2
